US08252803B2
2-[(5-tert-butyl-2-methylphenyl)amino]-6-[4-(1H-imidazol-1-yl)piperidin-1-yl]-N,N-dimethylisonicotinamide
2-chloro-6-[4-(1H-imidazol-1-yl)piperidin-1-yl]-N,N-dimethylisonicotinamide (250 mg, 0.749 mmol), 5-tert-butyl-2-methylaniline (132 mg, 0.809 mmol), 2-dicyclohexylphosphino-2′,4′,6′-triisopropyl-1,1′-biphenyl (187 mg, 0.392 mmol), Pd2(dba)3 (70 mg, 0.076 mmol) and potassium carbonate (119 mg, 0.861 mmol) were combined in a vial, sealed, and put under an atmosphere of N2. Degassed t-amyl alcohol (3 ml) was added. The mixture was stirred at 100° C. overnight.

reactant | 2-chloro-6-[4-(1H-imidazol-1-yl)piperidin-1-yl]-N,N-dimethylisonicotinamide | 0.749 mmol, 250 mg | ClC=1C=C(C(=O)N(C)C)C=C(N1)N1CCC(CC1)N1C=NC=C1 | C16H20ClN5O
reactant | 5-tert-butyl-2-methylaniline | 0.809 mmol, 132 mg | C(C)(C)(C)C=1C=CC(=C(N)C1)C | C11H17N
reactant | 2-dicyclohexylphosphino-2′,4′,6′-triisopropyl-1,1′-biphenyl | 0.392 mmol, 187 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
reactant | potassium carbonate | 0.861 mmol, 119 mg | C([O-])([O-])=O.[K+].[K+]
reactant | t-amyl alcohol | 3 ml | C(C)(C)(CC)O | C5H12O
catalyst | Pd2(dba)3 | 0.076 mmol, 70 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-[(5-tert-butyl-2-methylphenyl)amino]-6-[4-(1H-imidazol-1-yl)piperidin-1-yl]-N,N-dimethylisonicotinamide | C(C)(C)(C)C=1C=CC(=C(C1)NC=1C=C(C(=O)N(C)C)C=C(N1)N1CCC(CC1)N1C=NC=C1)C | C27H36N6O
